US05459138
Stage A: 2,4-Dihydroxypyridine-5-sulfonic acid
5 g of 2,4-dihydroxypyridine are slowly added, at a temperature in the region of -10° C., to 12.5 cm3 of sulfuric oleum containing 20% SO3 and containing 250 mg of HgSO4. After having left to return to ordinary temperature, the mixture is progressively brought to 150° C. and then maintained at this temperature for 16 hours. The mixture is poured onto a MeOH/acetone (50/50) mixture cooled to around -50° C. A beige precipitate is formed which is recrystallized from the same MeOH/acetone mixture.

reactant | 2,4-dihydroxypyridine | 5 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | oleum | 12.5 cm3 | OS(=O)(=O)O.O=S(=O)=O
solvent | MeOH acetone | CO.CC(=O)C
product | 2,4-Dihydroxypyridine-5-sulfonic acid | OC1=NC=C(C(=C1)O)S(=O)(=O)O | C5H5NO5S
